US04678853
Preparation of 1-(3,4-dimethoxybenzyl)-2-(N-[2-chlorethyl]-carbamoyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline 1c
2.86 g of tetrahydropapaverine are dissolved in 15 ml chloroform, then are added 0.7 ml of chlorethylisocyanate and the reaction mixture is stirred at ambient temmperature for 24 hours. The chloroform is distilled to dryness under vacuum. The thus obtained oily residue is suspended in ether and is left there to stay at a temperature about 0° C. for two days. A solid amorphous product is obtained that is filtered, washed several times with ether and dried at ambient temperature. Thus is prepared 1 g of compound 1c with melting point 73°-76° C.

reactant | tetrahydropapaverine | 2.86 g | COC=1C=CC(=CC1OC)CC2C=3C=C(C(=CC3CCN2)OC)OC | C20H25NO4
reactant | chlorethylisocyanate | 0.7 ml | ClCCN=C=O | C3H4ClNO
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4-dimethoxybenzyl)-2-(N-[2-chlorethyl]-carbamoyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)C(NCCCl)=O)C=CC1OC | C23H29ClN2O5
